US06358980B1
4-(4-But-2-ynyloxy-benzenesulfonyl)-1-(4-fluoro-benzyl)-piperidine-4-carboxylic acid ethyl ester was prepared according to the general method as outlined in Example 1 (Step 6). Starting from (4-but-2-ynyloxy-benzenesulfonyl)-acetic acid ethyl ester (5 g, 16.9 mmol) and (4-fluoro-benzyl)-bis-(2-chloro-ethyl)-amine (5.8 g, 20.1 mmol) 5.3 g of the product was isolated. Yield 5.3 g (67%); Brown oil; MS: 474 (M+H)+

reactant | (4-but-2-ynyloxy-benzenesulfonyl)-acetic acid ethyl ester | 16.9 mmol, 5 g | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C14H16O5S
reactant | (4-fluoro-benzyl)-bis-(2-chloro-ethyl)-amine | 20.1 mmol, 5.8 g | FC1=CC=C(CN(CCCl)CCCl)C=C1 | C11H14Cl2FN
product | 4-(4-But-2-ynyloxy-benzenesulfonyl)-1-(4-fluoro-benzyl)-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C25H28FNO5S
